US06890947B2
Rac-2-Ethoxy-3-{1-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic Acid
Starting from rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester and 4-chloromethyl-2-(2-methoxy-phenyl)-5-methyl-oxazole, the title compound was obtained in 56% yield as a pale yellow solid. MS: (M+H)+ 435.3.

reactant | rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(2-methoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)OC | C12H12ClNO2
product | Rac-2-Ethoxy-3-{1-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic Acid | 56% yield | C(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=C(C=CC=C1)OC | C25H26N2O5
